US05059597
c) 2-Methyl-4-oxa-2,8-diazabicyclo[4.3.0]nonane
9 g (42 mmol) of ethyl 2-methyl-4-oxa-2,8-diazabicyclo[4.3.0]nonane-8-carboxylate are heated under reflux with 28 g of Ba(OH)2.8H2O in 280 ml of water overnight. The BaCO3 is filtered off with suction, the filtrate is concentrated and the residue is boiled up with dioxane. The dioxane solution is concentrated and the residue is distilled.

reactant | ethyl 2-methyl-4-oxa-2,8-diazabicyclo[4.3.0]nonane-8-carboxylate | 42 mmol, 9 g | CN1C2CN(CC2COC1)C(=O)OCC | C10H18N2O3
solvent | water | 280 ml | O | H2O
product | 2-Methyl-4-oxa-2,8-diazabicyclo[4.3.0]nonane | CN1C2CNCC2COC1 | C7H14N2O
